US09085583B2
A mixture of methyl 2-methyl-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (550 mg, 2.89 mmol) and sodium hydride (200 mg, 4.34 mmol) in N,N-dimethylformamide (3.0 mL) was stirred at room temperature for 0.5 hour, and then (1-bromoethyl)benzene (589 mg, 3.18 mmol) was added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into saturated NH4Cl and extracted with ethyl acetate. Organic layers were combined and concentrated to give a residue. The residue was purified by chromatography (petroleum ether/ethyl acetate=5:1) to give methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (800 mg, 94%).

reactant | methyl 2-methyl-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 2.89 mmol, 550 mg | CC1=C(C=2C(=CN=CC2)N1)C(=O)OC | C10H10N2O2
reactant | sodium hydride | 4.34 mmol, 200 mg | [H-].[Na+]
reactant | (1-bromoethyl)benzene | 3.18 mmol, 589 mg | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 800 mg, 94% | CC1=C(C=2C(=CN=CC2)N1C(C)C1=CC=CC=C1)C(=O)OC | C18H18N2O2
